US05290939
With the exclusion of air, 43.9 g of 4-chlorocarbonyl-1-ethoxycarbonyl-piperidine are dissolved in 250 ml of anhydrous acetonitrile (degassed) and 53.4 g of [(3-bromo-2-hydroxy-5-methoxy-phenyl)methyl]-triphenyl-phosphonium chloride are added to the solution. In the course of 30 minutes, at 25° to 30°, 20 g of pyridine are added dropwise to the resulting suspension. The mixture is heated for 5 hours under reflux and is then hydrolysed with 100 ml of sodium carbonate solution (15%); the organic phase is separated off, washed in succession with 100 ml of 1N hydrochloric acid and 100 ml of water and concentrated by evaporation in vacuo and the oily residue that remains is dissolved in 50 ml of dichloromethane. In the course of 30 minutes, at 20°, with vigorous stirring, 200 ml of ethyl acetate are added dropwise to that solution and the product crystallises out. The resulting crystal suspension is concentrated to 150 ml under a weak vacuum using a rotary evaporator and then stirred for 2 hours at 0°. Filtering with suction and drying yield [(3-bromo-2-[(1-ethoxycarbonylpiperid-4-yl)carbonyloxy]-5-methoxy-phenyl)methyl]-triphenyl-phosphonium chloride [m.p.: 196°, IR (KBr): 3415, 3060, 2855, 2780, 1600, 1565, 1385, 1270, 1190, 1165 cm-1 ; 1H-NMR (360 MHz, CDCl3): 1.28 (t, 3H, CO2CH2CH3), 1.45 (m, 2H), 1.75 (m, 2H), 2.58 (m, 1H), 2.87 (m, 2H), 3.47 (s, 3H, OCH3), 4.00 (m, 2H), 4.13 (q, 2H, CO2CH2CH3), 5.37 (br. d, 2H, CH2P+), 6.87 (dd, 1H), 7.07 (dd, 1H), 7.54 to 7.87 (m, 15H) ppm]; yield 66% of the theoretical yield.

reactant | 4-chlorocarbonyl-1-ethoxycarbonyl-piperidine | 43.9 g | ClC(=O)C1CCN(CC1)C(=O)OCC | C9H14ClNO3
reactant | [(3-bromo-2-hydroxy-5-methoxy-phenyl)methyl]-triphenyl-phosphonium chloride | 53.4 g | [Cl-].BrC=1C(=C(C=C(C1)OC)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O
reactant | pyridine | 20 g | N1=CC=CC=C1 | C5H5N
reactant | sodium carbonate | 100 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | [(3-bromo-2-[(1-ethoxycarbonylpiperid-4-yl)carbonyloxy]-5-methoxy-phenyl)methyl]-triphenyl-phosphonium chloride | yield 66% | [Cl-].BrC=1C(=C(C=C(C1)OC)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OC(=O)C1CCN(CC1)C(=O)OCC | InChI=1S/C35H36BrNO5P.ClH/c1-3-41-35(39)37-21-19-26(20-22-37)34(38)42-33-27(23-28(40-2)24-32(33)36)25-43(29-13-7-4-8-14-29,30-15-9-5-10-16-30)31-17-11-6-12-18-31;/h4-18,23-24,26H,3,19-22,25H2,1-2H3;1H/q+1;/p-1
